US07897792B2
2-(2-(2-Fluoro-3-nitrobenzyl)-3-methyl-benzo[b]thiophen-6-yloxy)pyrimidine
1-Bromomethyl-2-fluoro-3-nitrobenzene (120 mg, 0.513 mmol) and zinc chloride (71 mg, 0.520 mmol) were added to a solution of 2-(3-methyl-benzo[b]thiophen-6-yloxy)pyrimidine (114 mg, 0.470 mmol) in dichloromethane (1.0 mL), and the mixture was heated under reflux for 17.5 hours. After returning to room temperature, 1-bromomethyl-2-fluoro-3-nitrobenzene (120 mg, 0.513 mmol) and zinc chloride (71 mg, 0.520 mmol) were added thereto, and the mixture was heated under reflux for 23 hours. The reaction mixture was then concentrated under reduced pressure, and purified by column chromatography to yield the title compound (67.5 mg, 36%) as a white solid.

reactant | 1-Bromomethyl-2-fluoro-3-nitrobenzene | 0.513 mmol, 120 mg | BrCC1=C(C(=CC=C1)[N+](=O)[O-])F | C7H5BrFNO2
reactant | 2-(3-methyl-benzo[b]thiophen-6-yloxy)pyrimidine | 0.470 mmol, 114 mg | CC=1C2=C(SC1)C=C(C=C2)OC2=NC=CC=N2 | C13H10N2OS
reactant | 1-bromomethyl-2-fluoro-3-nitrobenzene | 0.513 mmol, 120 mg | BrCC1=C(C(=CC=C1)[N+](=O)[O-])F | C7H5BrFNO2
solvent | dichloromethane | 1.0 mL | ClCCl | CH2Cl2
catalyst | zinc chloride | 0.520 mmol, 71 mg | [Cl-].[Zn+2].[Cl-]
catalyst | zinc chloride | 0.520 mmol, 71 mg | [Cl-].[Zn+2].[Cl-]
product | 2-(2-(2-Fluoro-3-nitrobenzyl)-3-methyl-benzo[b]thiophen-6-yloxy)pyrimidine | 67.5 mg, 36% | FC1=C(CC2=C(C3=C(S2)C=C(C=C3)OC3=NC=CC=N3)C)C=CC=C1[N+](=O)[O-] | C20H14FN3O3S
